US04116956
To a mixture of 5.6 parts of 2-amino-7-nitro-5-phenyl-3H-1,4-benzodiazepine, 200 parts by volume of ethanol and 2.4 parts by volume of glacial acetic acid is added with stirring 5 parts by volume of 80% hydrazine hydrate. The mixture is stirred for 30 minutes at room temperature and treated in a similar manner to Example 1, whereby 2-hydrazino-7-nitro-5-phenyl-3H-1,4-benzodiazepine is yielded as reddish, viscous oily substance.

reactant | 2-amino-7-nitro-5-phenyl-3H-1,4-benzodiazepine | NC1=NC2=C(C(=NC1)C1=CC=CC=C1)C=C(C=C2)[N+](=O)[O-] | C15H12N4O2
reactant | ethanol | C(C)O | C2H6O
reactant | hydrazine hydrate | O.NN
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-hydrazino-7-nitro-5-phenyl-3H-1,4-benzodiazepine | N(N)C1=NC2=C(C(=NC1)C1=CC=CC=C1)C=C(C=C2)[N+](=O)[O-] | C15H13N5O2
